### PR TITLE
Expliciting relation between split and [lr]shift

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Adds lemma `split_ordP`, a variant of `splitP` which introduces ordinal equalities between the index and `lshift`/`rshift`, rather than equalities in `nat`, which in some proofs makes the reasoning easier (cf `matrix.v`), especially together with the new lemma `eq_shift` (which is a multi-rule for new lemmas `eq_lshift`, `eq_rshift`, `eq_lrshift` and `eq_rlshift`).

Part of #207 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by CohenCyril** [comment]
@amahboubi @LaurenceRideau @gares can one of you assign themself?

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -2108,6 +2108,31 @@ Proof. by move=> ? ? /(f_equal val) /= /val_inj. Qed.
 Lemma rshift_inj m n : injective (@rshift m n).
 Proof. by move=> ? ? /(f_equal val) /addnI /val_inj. Qed.
 
+Lemma eq_lshift m n i j : (@lshift m n i == @lshift m n j) = (i == j).
+Proof. by rewrite (inj_eq (@lshift_inj _ _)). Qed.
+
+Lemma eq_rshift m n i j : (@rshift m n i == @rshift m n j) = (i == j).
+Proof. by rewrite (inj_eq (@rshift_inj _ _)). Qed.
+
+Lemma lrshiftP m n i j : (@lshift m n i <> @rshift m n j).
```
Comment (thery) [inline mathcomp/ssreflect/fintype.v:2117]: I would never have guessed the name of this theorem P?

File: mathcomp/ssreflect/fintype.v [hunk 2]
```diff
@@ -2108,6 +2108,31 @@ Proof. by move=> ? ? /(f_equal val) /= /val_inj. Qed.
...
+
+Lemma rlshiftP m n i j : (@rshift m n i <> @lshift m n j).
+Proof. by move=> /esym/lrshiftP. Qed.
+Arguments rlshiftP {m n} i j.
+
+Lemma eq_lrshift m n i j : (@lshift m n i == @rshift m n j) = false.
+Proof. by apply/negP => /eqP/lrshiftP. Qed.
+
+Lemma eq_rlshift m n i j : (@rshift m n i == @lshift m n j) = false.
+Proof. by apply/negP => /eqP/rlshiftP. Qed.
```
Comment (thery) [inline mathcomp/ssreflect/fintype.v:2132]: why not simple apply/eqP/lrshiftP.

File: mathcomp/ssreflect/fintype.v [hunk 3]
```diff
@@ -2108,6 +2108,31 @@ Proof. by move=> ? ? /(f_equal val) /= /val_inj. Qed.
...
+by rewrite def_i -ltn_subRL subnn.
+Qed.
+Arguments lrshiftP {m n} i j.
+
+Lemma rlshiftP m n i j : (@rshift m n i <> @lshift m n j).
+Proof. by move=> /esym/lrshiftP. Qed.
+Arguments rlshiftP {m n} i j.
+
+Lemma eq_lrshift m n i j : (@lshift m n i == @rshift m n j) = false.
+Proof. by apply/negP => /eqP/lrshiftP. Qed.
```
Comment (thery) [inline mathcomp/ssreflect/fintype.v:2129]: same as after

File: mathcomp/ssreflect/fintype.v [hunk 4]
```diff
@@ -2108,6 +2108,31 @@ Proof. by move=> ? ? /(f_equal val) /= /val_inj. Qed.
...
+Proof. by rewrite (inj_eq (@rshift_inj _ _)). Qed.
+
+Lemma lrshiftP m n i j : (@lshift m n i <> @rshift m n j).
+Proof.
+move=> /(congr1 val)/= def_i; have := ltn_ord i.
+by rewrite def_i -ltn_subRL subnn.
+Qed.
+Arguments lrshiftP {m n} i j.
+
+Lemma rlshiftP m n i j : (@rshift m n i <> @lshift m n j).
```
Comment (thery) [inline mathcomp/ssreflect/fintype.v:2124]: same as before

**Review by thery — CHANGES_REQUESTED** [review]

File: mathcomp/ssreflect/fintype.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: It is not used, so I removed it.

File: mathcomp/ssreflect/fintype.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: fixed

File: mathcomp/ssreflect/fintype.v (hunk 3 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: fixed

File: mathcomp/ssreflect/fintype.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: It is not used, so I removed it.

**Comment by CohenCyril** [comment]
@thery I removed the theorems with unintuitive names. If one finds them useful, we can think of a better name and add them back later on.

**Review by thery — APPROVED** [review]

**Comment by CohenCyril** [comment]
@gare, @thery merge?

**Comment by thery** [comment]
@CohenCyril fine with me

**Comment by CohenCyril** [comment]
> @CohenCyril fine with me

You are not the author, you can merge ;)
